US08084477B2
Step C. 5,5,5-Trifluoro-2-(1-phenylethylamino)pentanamide (Mixture of Diastereomers)
5,5,5-Trifluoro-2-(1-phenylethylamino)pentanenitrile (crude mixture of diastereomers from Step B, 1.10 kg) was dissolved in dichloromethane (5.5 L) in a suitable vessel equipped with mechanical stirring, ice bath for cooling and maintained under a blanket of nitrogen. Stirring was started and the reaction mixture was cooled to 0 to −5° C. Concentrated sulfuric acid (1.75 L) was added dropwise over a period of 1 hour into the above mixture, maintaining the temperature below 0° C.; a clear solution was obtained after the addition was complete. The temperature of the reaction mixture was raised to 25 to 27° C. and stirred overnight (12-14 h). Completion of the reaction was determined by HPLC. The reaction mixture was poured slowly over crushed ice (˜15.0 kg) and was neutralized with aqueous ammonia (˜25% by volume). The aqueous layer was separated and extracted with dichloromethane (2×3.0 L). The combined dichloromethane layer was washed with water (1×12.0 L) followed by brine (1×3.0 L). The product rich organic layer was dried over sodium sulfate and concentrated under reduced pressure to yield 0.85 kg (72.0%) of the crude title compound 1H NMR (CDCl3) (400 MHz) (Mixture of diasteromers) δ 1.36 (d&m, 4H, CH3 (J=8.0 Hz & 1H of CH2), 1.90 (m, 1H of CH2), 2.15 & 2.35 (two m, 1H each of CH2—CF3), 2.80-2.90 (m, 1H, CH-Ph), 3.60-3.70 (m,1H, —(CONH2)CH(NH), 5.90 & 6.45 (1H each of CONH2 with minor peaks for other diasteromer), 7.20-7.40 (m, 6H, Ar+NH).

reactant | 5,5,5-Trifluoro-2-(1-phenylethylamino)pentanenitrile | FC(CCC(C#N)NC(C)C1=CC=CC=C1)(F)F | C13H15F3N2
reactant | sulfuric acid | 1.75 L | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | N | H3N
solvent | dichloromethane | 5.5 L | ClCCl | CH2Cl2
product | 5,5,5-Trifluoro-2-(1-phenylethylamino)pentanamide | FC(CCC(C(=O)N)NC(C)C1=CC=CC=C1)(F)F | C13H17F3N2O
